### PR TITLE
[Merged by Bors] - feat(SimpleGraph/Clique): graphs without one cliques

### PR DESCRIPTION
**Pull request by jt496**
A simple graph is cliqueFree one iff it has no vertices.

Co-authored-by: Lian Tattersall <lian.tattersall.20@alumni.ucl.ac.uk>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean [hunk 1]
```diff
@@ -367,6 +367,13 @@ protected theorem CliqueFree.replaceVertex [DecidableEq α] (h : G.CliqueFree n)
     conv at hφ => enter [a, b]; rw [G.adj_replaceVertex_iff_of_ne _ (mt a) (mt b)]
     exact hφ
 
+@[simp]
+lemma cliqueFree_one : G.CliqueFree 1 ↔ IsEmpty α :=by
+  constructor
+  · simp only [CliqueFree, isNClique_one, not_exists, forall_eq_apply_imp_iff]
+    exact fun a => { false := a }
```
Comment (Rida-Hamadani) [inline Mathlib/Combinatorics/SimpleGraph/Clique.lean:374]:
```suggestion
  · simp [CliqueFree, isEmpty_iff]
```

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean [hunk 2]
```diff
@@ -367,6 +367,13 @@ protected theorem CliqueFree.replaceVertex [DecidableEq α] (h : G.CliqueFree n)
...
+  · intro h t hf; simp_all
```
Comment (Rida-Hamadani) [inline Mathlib/Combinatorics/SimpleGraph/Clique.lean:375]:
```suggestion
  · intro _ _
    simp
```

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean [hunk 3]
```diff
@@ -367,6 +367,13 @@ protected theorem CliqueFree.replaceVertex [DecidableEq α] (h : G.CliqueFree n)
     conv at hφ => enter [a, b]; rw [G.adj_replaceVertex_iff_of_ne _ (mt a) (mt b)]
     exact hφ
 
+@[simp]
+lemma cliqueFree_one : G.CliqueFree 1 ↔ IsEmpty α :=by
```
Comment (Rida-Hamadani) [inline Mathlib/Combinatorics/SimpleGraph/Clique.lean:371]:
```suggestion
lemma cliqueFree_one : G.CliqueFree 1 ↔ IsEmpty α := by
```

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean (hunk 2 above)
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Clique.lean:375]: Assuming that Rida's suggestions are valid, I'd guess that `simp [CliqueFree, isEmpty_iff]` would work; although I haven't tried.

Comment (jt496) [reply Mathlib/Combinatorics/SimpleGraph/Clique.lean:375]: Thanks, both that works.

**Comment by b-mehta** [comment]
Thank you! And thanks @Rida-Hamadani for the helpful review. 

bors merge
